US06521663B2
13. 2-{3-[(2,2-Difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}ethanol
To a solution N-[4-chloro-2-fluor-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-phenylacetamide (1.05 g, 3.06 mmol), as prepared according to the procedure in the preceding step, in THF (12 mL) at 0° C. under argon was added a solution of borane-THF complex in THF (12.3 mL, 12.3 mmol, 1.0 M) over a period of 10 minutes, and the reaction mixture continued to stir until the ice-bath expired. The reaction mixture was heated at reflux for 20 hours, and allowed to cool to room temperature. A solution of K2CO3 (1.7 g, 12 mmol) in H2O (12 mL) was added, the THF was removed in vacuo, and the mixture was extracted with DCM (3 times). The extracts were combined, washed with brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with EtOAC/DCM (0 and 2.5%) to give the title compound (815 mg, 81% yield) as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ 7.52-7.43 (m, 5H), 6.97 (dd, J=8.8, 1.7 Hz, 1H), 6.51 (t, J=8.9 Hz, 1H), 4.17 (bs, 1H), 3.83 (t, J=6.9 Hz, 2H), 3.74 (dt, J=13.4, 6.6 Hz, 2H), 3.04 (dt, J=6.9, 2.4 Hz, 2H), 1.43 (s, 1H). Mass spectrum (LCMS, ESI) calc'd for C16H16ClF3NO (M+H): 330.1. Found: 330.3.

reactant | N-[4-chloro-2-fluor-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-phenylacetamide | 3.06 mmol, 1.05 g | ClC1=C(C(=C(C=C1)NC(C(C1=CC=CC=C1)(F)F)=O)F)CCO | C16H13ClF3NO2
reactant | K2CO3 | 12 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | H2O | 12 mL | O | H2O
solvent | THF | 12.3 mmol, 1.0 M, 12.3 mL | C1CCOC1 | C4H8O
product | 2-{3-[(2,2-Difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}ethanol | 815 mg, 81% yield | FC(CNC=1C(=C(C(=CC1)Cl)CCO)F)(C1=CC=CC=C1)F | C16H15ClF3NO
